US05145868
c) (2RS,3SR)-2,3-Epoxy-3-(thiophen-3-yl)-propanol
0.8 g of sodium hydroxide in 15 ml of water is added to a solution of 2.4 g of (2RS,3SR)-2-bromo-3-(thiophen-3-yl)-propane-1,3-diol in 25 ml of ethanol. The reaction mixture is stirred for 40 minutes at room temperature, the ethanol is evaporated off in vacuo and the residue is diluted with 400 ml of water. Extraction is carried out with dichloromethane (3×100 ml), the extracts are dried over sodium sulfate and the solvent is evaporated off. The residue is chromatographed on silica gel with dichloromethane/acetone (9:1). The title compound is obtained in the form of light-yellow crystals, m.p.=63°-65° C.

reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
reactant | (2RS,3SR)-2-bromo-3-(thiophen-3-yl)-propane-1,3-diol | 2.4 g | BrC(CO)C(O)C1=CSC=C1 | C7H9BrO2S
solvent | water | 15 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (2RS,3SR)-2,3-Epoxy-3-(thiophen-3-yl)-propanol | O1C(CO)C1C1=CSC=C1 | C7H8O2S
